US06642251B1
A reaction mixture of 0.422 g 5-bromoindanone, 1.3 g oxindole and 0.9 ml piperidine in 3 ml of dimethylforamide was heated in a sealed tube at 110° C. overnight. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated. The black residue was chromatographed on a silica gel column, eluting with ethyl acetate and hexane to give 73.0 mg of 3-(5-bromoindan-1-ylidene)-1,3-dihydroindol-2-one as a yellow solid.

reactant | 5-bromoindanone | 0.422 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | oxindole | 1.3 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | piperidine | 0.9 ml | N1CCCCC1 | C5H11N
solvent | dimethylforamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-(5-bromoindan-1-ylidene)-1,3-dihydroindol-2-one | 73.0 mg | BrC=1C=C2CCC(C2=CC1)=C1C(NC2=CC=CC=C12)=O | C17H12BrNO
